US07521451B2
5,6-dimethyl-2-(3-pyridyl)-3-(2-propoxyethyl)isoindolin-1-one
Metal sodium (6.4 mg, 0.28 mmol) was stirred with heating in propanol (2 ml) at 110° C. for 1 hr, and 5,6-dimethyl-2-(3-pyridyl)-3-mesyloxyethylisoindolin-1-one (50 mg, 0.14 mmol) was added thereto, followed by stirring with heating at 90° C. for 3 hrs. To the reaction solution was added water, and extracted with chloroform. The organic layer was concentrated under reduced pressure, and the residue was purified by silica gel chromatography (chloroform:ethyl acetate=1:1) to give 12 mg of the title compound.

reactant | Metal | 0.28 mmol, 6.4 mg | N[C@@H](CCSC)C=O | C5H11NOS
reactant | 5,6-dimethyl-2-(3-pyridyl)-3-mesyloxyethylisoindolin-1-one | 0.14 mmol, 50 mg | CC=1C=C2C(N(C(C2=CC1C)=O)C=1C=NC=CC1)CCOS(=O)(=O)C | C18H20N2O4S
reactant | water | O | H2O
solvent | propanol | 2 ml | C(CC)O | C3H8O
product | 5,6-dimethyl-2-(3-pyridyl)-3-(2-propoxyethyl)isoindolin-1-one | 12 mg | CC=1C=C2C(N(C(C2=CC1C)=O)C=1C=NC=CC1)CCOCCC | C20H24N2O2
